US04361511
26.8 g (0.2 mol) of N-chlorosuccinimide are added to a solution, stirred at room temperature, of 30 g (0.095 mol) of rac-7-amino-5-(o-chlorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one in 500 ml of methylene chloride and the mixture is stirred for 65 hours. The mixture is subsequently diluted with 400 ml of methylene chloride, 500 ml of 2 N sodium carbonate solution are added thereto, the phases are separated and the organic phase is washed with water. After drying and removal of the solvent in vacuo, the residue is chromatographed on 1 kg of silica gel using chloroform for the elution. From methylene chloride/cyclohexane there is obtained rac-7-amino-6,8-dichloro-5-(o-chlorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one of melting point 186°-187° C.

reactant | N-chlorosuccinimide | 0.2 mol, 26.8 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | rac-7-amino-5-(o-chlorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one | 0.095 mol, 30 g | NC=1C=CC2=C(C(=NC(C(N2C)=O)C)C2=C(C=CC=C2)Cl)C1 | C17H16ClN3O
reactant | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | sodium carbonate | 2 N, 500 ml | C([O-])([O-])=O.[Na+].[Na+]
product | rac-7-amino-6,8-dichloro-5-(o-chlorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one | NC=1C(=CC2=C(C(=NC(C(N2C)=O)C)C2=C(C=CC=C2)Cl)C1Cl)Cl | C17H14Cl3N3O
